US03984436
30 g of 1-[o-(2,5-dimethyl-pyrrol-1-yl)-phenoxy]-2,3-epoxy-propane, dissolved in 200 ml of isopropanol, are mixed with 60 ml of isopropylamine and the mixture is heated to the boil under reflux for 2 hours. The oil which remains after evaporation is recrystallised from petroleum ether with addition of active charcoal and gives 1-[o-(2,5-dimethyl-pyrrol-1-yl)-phenoxy]-3-isopropylamino-2-propanol of melting point 73°-75° C. Its neutral fumarate melts at 186°-188° C (from acetone).

reactant | 1-[o-(2,5-dimethyl-pyrrol-1-yl)-phenoxy]-2,3-epoxy-propane | 30 g | CC=1N(C(=CC1)C)C1=C(OCC2CO2)C=CC=C1 | C15H17NO2
reactant | isopropylamine | 60 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-[o-(2,5-dimethyl-pyrrol-1-yl)-phenoxy]-3-isopropylamino-2-propanol | CC=1N(C(=CC1)C)C1=C(OCC(CNC(C)C)O)C=CC=C1 | C18H26N2O2
